US06403595B1
To a solution of 1-[1-(tert-butoxycarbonyl)-4-(4-iodobenzenesulfonyl)-4-piperidylmethyl]-2-piperazinone (1.13 g), which was produced according to a method described in Reference Example 54 using 1-[1-(tert-butoxycarbonyl)-4-piperidylmethyl]-2-piperazinone and 4-iodobenzenesulfonyl chloride, in diethylamine (20 ml)-DMF (5 ml) were added trimethylsilylacetylene (244 mg), bis(triphenylphosphine)palladium chloride (II) (69 mg) and copper iodide (2 ml), and the mixture was stirred at room temperature for 5 hours. The reaction solution was concentrated, and the residue was purified with silica gel column chromatography (hexane:acetone=1:1) to give brown crystals of 1-[1-(tert-butoxycarbonyl)-4-piperidylmethyl]-4-[4-[2-(trimethylsilyl)ethynyl]benzenesulfonyl]-2-piperazinone (825 mg). To a solution of 1-[1-(tert-butoxycarbonyl)-4-piperidylmethyl)-4-[4-[2-(trimethylsilyl)ethynyl]benzenesulfonyl]-2-piperazinone (534 mg) in toluene (10 ml) was added trifluoroacetic acid (5 ml), and the mixture was stirred for 1 hour. The reaction solution was concentrated, and the residue was dissolved in ethanol (20 ml). To the solution was added 1N sodium hydroxide (2 ml), and the mixture was stirred at room temperature for 1 hour. To the reaction solution was added ethyl acetate, and the mixture was washed with 10% sodium carbonate solution and saturated brine, dried (MgSO4) and concentrated. Precipitated crystals were washed with ethanol-ether to give brown crystals of 4-(4-ethynylbenzenesulfonyl)-1-[4-piperidylmethyl]-2-piperazinone (450 mg). To 10% sodium carbonate solution was added bromopyridine hydrochloride (272 mg), and the mixture was extracted with ethyl acetate, dried and concentrated. To the residue were added 4-(4-ethynylbenzenesulfonyl)-1-[4-piperidylmethyl]-2-piperazinone (289 mg) and isoamylalcohol (10 ml), and the mixture was allowed to react at 130° C. overnight. The reaction solution was concentrated under reduced pressure, and to the residue was added 10% sodium carbonate solution. The mixture was extracted with ethyl acetate-THF, and the extract was washed with saturated brine, dried and concentrated. The residue was purified with silica gel column chromatography (acetone:methanol=9:1→1:1), washed with water, and precipitated crystals were washed with acetone-ether to give powder of 4-(4-ethynylbenzenesulfonyl)-1-[1-(4-pyridyl)-4-piperidylmethyl]-2-piperazinone (85 mg).

reactant | 1-[1-(tert-butoxycarbonyl)-4-piperidylmethyl]-2-piperazinone | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1C(CNCC1)=O | C15H27N3O3
reactant | 4-iodobenzenesulfonyl chloride | IC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClIO2S
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | trimethylsilylacetylene | 244 mg | C[Si](C)(C)C#C | C5H10Si
solvent | diethylamine | 20 ml | C(C)NCC | C4H11N
catalyst | bis(triphenylphosphine)palladium chloride | 69 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 2 ml | [Cu](I)I
product | 1-[1-(tert-butoxycarbonyl)-4-piperidylmethyl]-4-[4-[2-(trimethylsilyl)ethynyl]benzenesulfonyl]-2-piperazinone | 825 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1C(CN(CC1)S(=O)(=O)C1=CC=C(C=C1)C#C[Si](C)(C)C)=O | C26H39N3O5SSi
